US06232025B1
Poly(methybisphenol-A-benzophenone) (P(MEBPA-BNZPH))
Polymerization was carried out similar to the P(BPZ-BNZPH) polymerization, except methylbisphenol-A (10.0000 g, 39.00 mmol), potassium carbonate (10.782 g, 78.00 mmol), 4,4′-difluorobenzophenone (8.5102 g, 39.00 mmol), toluene (50 g) and N,N-dimethylacetamide (85 g) were used. The yield was about 15.34 g. The number average molecular weight of the polymer was about 8.2 K.

reactant | methylbisphenol-A | 39.00 mmol, 10.0000 g | CC1=C(O)C=CC(=C1)C(C)(C)C1=CC=C(C=C1)O | C16H18O2
reactant | potassium carbonate | 78.00 mmol, 10.782 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4,4′-difluorobenzophenone | 39.00 mmol, 8.5102 g | FC1=CC=C(C(=O)C2=CC=C(C=C2)F)C=C1 | C13H8F2O
reactant | toluene | 50 g | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylacetamide | 85 g | CN(C(C)=O)C | C4H9NO
product | methybisphenol-A benzophenone | CC1=C(O)C=CC(=C1)C(C)(C)C1=CC=C(C=C1)O.C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | InChI=1S/C16H18O2.C13H10O/c1-11-10-13(6-9-15(11)18)16(2,3)12-4-7-14(17)8-5-12;14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12/h4-10,17-18H,1-3H3;1-10H
